US07112582B2
Step 5: 6,7-Dihydro-4H-pyrazolo[5,1-c][1,4]thiazine-2-carbaldehyde
MnO2 (activated) (11.46 g) was added to the CHCl3 (135 mL) solution of (6,7-dihydro-4H-pyrazolo[5,1-c][1,4]thiazin-2-yl)methanol (2.31 g) and refluxed for 1 h under a nitrogen atmosphere. The reaction mixture was filtered through a pad of Celite. The filtrate was concentrated under a reduced pressure. The residue was applied to silica gel column chromatography, then the column was eluted with n-hexane-AcOEt (1/1). The titled compound was obtained as pale yellow crystals (1.78 g, 78%).

reactant | (6,7-dihydro-4H-pyrazolo[5,1-c][1,4]thiazin-2-yl)methanol | 2.31 g | N1=C(C=C2CSCCN21)CO | C7H10N2OS
catalyst | MnO2 | 11.46 g | O=[Mn]=O
solvent | CHCl3 | 135 mL | C(Cl)(Cl)Cl | CHCl3
product | 6,7-Dihydro-4H-pyrazolo[5,1-c][1,4]thiazine-2-carbaldehyde | N1=C(C=C2CSCCN21)C=O | C7H8N2OS
